US07968538B2
1-(2-(1-Phenylethylamino)-4-fluorophenyl)-2,2,2-trifluoroethanone
2,2,2-Trifluoro-1-(2,4-difluorophenyl)ethanone (1.59 g, 7.57 mmol), 1-phenylethanamine (0.92 g, 7.57 mmol) and N,N-diisopropylethylamine (1.95 g, 15.1 mmol) were stirred at room temperature in dry acetonitrile (50 mL) for 20 h. The solvent was evaporated and the residue was dissolved in dichloromethane and washed with water. The dichloromethane was evaporated and purified by silica chromatography in 20% ethyl acetate in hexanes to collect the title compound (0.28 mg, 12% yield). 1H NMR (400 MHz, CDCl3): δ 9.32 (s, 1H), 7.80 (t, 1H), 7.31 (m, 5H), 6.33 (t, 1H), 6.22 (d, 1H), 4.58 (m, 1H), 1.62 (d, 3H).

reactant | 2,2,2-Trifluoro-1-(2,4-difluorophenyl)ethanone | 7.57 mmol, 1.59 g | FC(C(=O)C1=C(C=C(C=C1)F)F)(F)F | C8H3F5O
reactant | 1-phenylethanamine | 7.57 mmol, 0.92 g | C1(=CC=CC=C1)C(C)N | C8H11N
reactant | N,N-diisopropylethylamine | 15.1 mmol, 1.95 g | C(C)(C)N(C(C)C)CC | C8H19N
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | 1-(2-(1-Phenylethylamino)-4-fluorophenyl)-2,2,2-trifluoroethanone | 0.28 mg, 12% yield | C1(=CC=CC=C1)C(C)NC1=C(C=CC(=C1)F)C(C(F)(F)F)=O | C16H13F4NO
